US05382379
A suspension of methoxymethyltriphenylphosphonium chloride (36.4 g) in THF (200 ml) was stirred in a nitrogen gas stream, followed by adding potassium-t-butoxide (12 g) little by little, while cooling the suspension at 0° C., stirring the reaction solution at room temperature for one hour, dropwise adding a solution of 4-(3',4',5'-trifluorophenyl)cyclohexanone (20 g) in THF (100 ml), raising the temperature of the reaction mixture up to room temperature, further stirring for 2 hours, adding to water (100 ml) after completion of the reaction, extracting with ethyl acetate (200 ml), drying the organic layer over anhydrous MgSO4, concentrating it under reduced pressure, and carrying out chromatography treatment on silica gel with ethyl acetate/heptane (1:5), to obtain 4-(3',4',5'-trifluorophenyl)methoxymethylenecyclohexane (18.25 g).

reactant | methoxymethyltriphenylphosphonium chloride | 36.4 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium-t-butoxide | 12 g | CC(C)([O-])C.[K+]
reactant | 4-(3',4',5'-trifluorophenyl)cyclohexanone | 20 g | FC=1C=C(C=C(C1F)F)C1CCC(CC1)=O | C12H11F3O
reactant | water | 100 ml | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-(3',4',5'-trifluorophenyl)methoxymethylenecyclohexane | 18.25 g | FC=1C=C(C=C(C1F)F)COC=C1CCCCC1 | C14H15F3O
